* Passivizer Netlist 07: Modern Active P/J Bass
* Target: Precision Split-P + Jazz Single-Coil with Active 2-Band Preamp Buffer (Sadowsky / Spector Style)
.options plotwinsize=0 numdgt=7

* 1. Audio Sources: Independent String Motion per Pickup (Channel 0 = P-Neck, Channel 1 = J-Bridge)
V_neck in_neck 0 wavefile="v1_1_1_aperture.wav" chan=0
V_bridge in_bridge 0 wavefile="v1_1_1_aperture.wav" chan=1

* 2. Dynamic Magnetic Core & String Excursion Saturation (Soft-Knee Compliance)
B_comp_n in_dyn_n 0 V=0.45 * tanh(V(in_neck) / 0.45)
B_comp_b in_dyn_b 0 V=0.55 * tanh(V(in_bridge) / 0.55)

* 3. Pickup Coils: Dual Parallel Pickup Branches (Ceramic Precision Neck || Ceramic Jazz Bridge)
* --- Branch 1: Bartolini 8CBP Precision Neck (4.8H, 9.5k, 80pF, 110k eddy) ---
L_neck in_dyn_n node1_n 4.80
R_dc_n node1_n node2 9.50k
R_eddy_n in_dyn_n node2 110k
C_coil_n node2 0 80p

* --- Branch 2: Bartolini 9CBJS1 Jazz Bridge (3.6H, 7.8k, 70pF, 125k eddy) ---
L_bridge in_dyn_b node1_b 3.60
R_dc_b node1_b node2 7.80k
R_eddy_b in_dyn_b node2 125k
C_coil_b node2 0 70p

* 4. Active Preamp Input Stage (High-Z Input Buffer, Zero Cable Drag on Coils)
R_preamp_in node2 0 1Meg
C_preamp_in node2 0 25p

* 5. Active Preamp Buffer Stage (Sadowsky / Spector 2-Band Active Contour)
* Direct low-Z op-amp output buffer isolating coils from cable capacitance
E_preamp node_buf 0 node2 0 1.0
R_out node_buf node3 100
* Preamp voicing: sadowsky_2band (+4.0 dB @ 40 Hz, +4.0 dB @ 4 kHz)

* 6. Instrument Cable Load (15-ft cable ~750pF)
C_cable node3 0 750p

* 7. Darkglass Anagram Input Stage (1 M-Ohm || 30pF)
R_anagram node3 0 1Meg
C_anagram node3 0 30p

* 8. Output Audio Export for NAM Training
.wave "out_07_modern_pj_active.wav" 24 48000 V(node3)
.end
